US05215989
6-Methanesulfonamido-2-(1-[4-methanesulfonamidophenethyl]-4-piperidyl)indan-1-one hydrochloride
A mixture of 0.100 g (0.00029 mol) of 6-methanesulfonamido-2-(4-piperidyl)indan-1-one hydrochloride, 0.073 g (0.00087 mol) of sodium bicarbonate, 0.128 g (0.00044 mol) of 4-methanesulfonamidophenethyl alcohol mesylate, 15 mg of potassium iodide, and 10 mL of acetonitrile was stirred and refluxed for 32 hours. The cooled solution, transferred to a separatory funnel using 25 mL of ethyl acetate, was washed with water and then with brine. The organic phase was extracted with three 4 mL portions of 1N HCl. The combined acid extracts were made basic by addition of solid sodium bicarbonate, and the basic phase was extracted with three 30 mL portions of ethyl acetate. The combined organic extracts were dried over magnesium sulfate, filtered, and the solvent was removed under reduced pressure to afford 0.125 g (86%) of product. A hydrochloride salt was prepared in methanol; mp 130°-135° (foams).

reactant | 6-methanesulfonamido-2-(4-piperidyl)indan-1-one hydrochloride | 0.00029 mol, 0.100 g | Cl.CS(=O)(=O)NC1=CC=C2CC(C(C2=C1)=O)C1CCNCC1
reactant | sodium bicarbonate | 0.00087 mol, 0.073 g | C([O-])(O)=O.[Na+]
reactant | 4-methanesulfonamidophenethyl alcohol mesylate | 0.00044 mol, 0.128 g | S(C)(=O)(=O)OCCC1=CC=C(C=C1)NS(=O)(=O)C | C10H15NO5S2
reactant | potassium iodide | 15 mg | [I-].[K+]
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 6-Methanesulfonamido-2-(1-[4-methanesulfonamidophenethyl]-4-piperidyl)indan-1-one hydrochloride | 0.125 g, 86% | Cl.CS(=O)(=O)NC1=CC=C2CC(C(C2=C1)=O)C1CCN(CC1)CCC1=CC=C(C=C1)NS(=O)(=O)C | InChI=1S/C24H31N3O5S2.ClH/c1-33(29,30)25-20-6-3-17(4-7-20)9-12-27-13-10-18(11-14-27)22-15-19-5-8-21(26-34(2,31)32)16-23(19)24(22)28;/h3-8,16,18,22,25-26H,9-15H2,1-2H3;1H
